US06610692B1
Step C: 3-Cyclopropyl-2,2-difluoropropylazide
A solution of 1.68 g (6.3 mmol) of 3-cyclopropyl-2,2-difluoropropyl trifluoromethanesulfonate and 820 mg (12.6 mmol) of sodium azide in 6.0 mL of DMF was heated at 50° C. under Ar overnight. After cooling to rt, the mixture was diluted with 40 mL of water, and extracted with two 75 mL portions of ether. The combined organic layers were washed thrice with water, brine, and dried over MgSO4. The solvents were concentrated by distillation at atmospheric pressure to give a solution of the title compound in ether that was used directly in the next step.

reactant | 3-cyclopropyl-2,2-difluoropropyl trifluoromethanesulfonate | 6.3 mmol, 1.68 g | FC(S(=O)(=O)OCC(CC1CC1)(F)F)(F)F | C7H9F5O3S
reactant | sodium azide | 12.6 mmol, 820 mg | [N-]=[N+]=[N-].[Na+]
solvent | DMF | 6.0 mL | CN(C)C=O | C3H7NO
solvent | water | 40 mL | O | H2O
product | 3-Cyclopropyl-2,2-difluoropropylazide | C1(CC1)CC(CN=[N+]=[N-])(F)F | C6H9F2N3
